US06949648B2
Ethyl 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A solution of ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (3.0 g, 0.01 mol) in phosphorous oxychloride (7.7 g, 0.05 mol) was heated and stirred at 100° C. for 1 hour. After the solution was allowed to cool to room temperature, the reaction solvent was evaporated under reduced pressure, and the residue water was added to iced water. After neutralization by the addition of an aqueous sodium hydroxide solution, organic matter was extracted with chloroform. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Purification of the residue by silica gel chromatography (ethyl acetate) gave the title compound (1.72 g, 54% yield).

reactant | ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.01 mol, 3.0 g | OC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H14N4O3
reactant | phosphorous oxychloride | 0.05 mol, 7.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.72 g, 54% yield | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H13ClN4O2
